US08802704B2
Step 2: tert-butyl 2-((3-chloro-4-(N′-hydroxycarbamimidoyl)benzyl)(methyl)amino)acetate
A solution of tert-butyl 2-((4-cyano-3-chlorobenzyl)(methyl)amino)acetate (1.95 g, 6.60 mmol) and 50% aqueous hydroxylamine (2.02 mL) in ethanol (10 mL) was heated at 80° C. for 5 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was poured through a hydrophobic frit and evaporated in vacuo to afford the title compound (2.16 g, quantitative). 1H NMR (CDCl3, 400 MHz) δ 7.48-7.42 (2H, m), 7.28 (1H, m), 4.97 (2H, s), 3.69 (2H, s), 3.18 (2H, s), 2.37 (3H, s), 1.48 (9H, s).

reactant | tert-butyl 2-((4-cyano-3-chlorobenzyl)(methyl)amino)acetate | 6.60 mmol, 1.95 g | C(#N)C1=C(C=C(CN(CC(=O)OC(C)(C)C)C)C=C1)Cl | C15H19ClN2O2
reactant | hydroxylamine | 2.02 mL | NO | H3NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-butyl 2-((3-chloro-4-(N′-hydroxycarbamimidoyl)benzyl)(methyl)amino)acetate | 2.16 g | ClC=1C=C(CN(CC(=O)OC(C)(C)C)C)C=CC1C(N)=NO | C15H22ClN3O3
